US04351961
(c) 2,4,4,5-Tetrachloro-5,5-difluoropentane-1-carboxylic acid chloride
276 g of 2,4,4,5-tetrachloro-5,5-difluoropentane-1-carboxylic acid, 300 ml of thionyl chloride and 1 ml of N,N-dimethylformamide are mixed together, and the mixture is heated within 1 hour to 60° C. and finally refluxed for 1 hour. After the excess thionyl chloride has been distilled off, the residue is fractionally distilled to thus obtain 250.2 g (85% of theory) of 2,4,4,5-tetrachloro-5,5-di-fluoropentane-1-carboxylic acid chloride in the form of a clear liquid, which boils at 95°-97° C./2000 Pa.

reactant | 2,4,4,5-tetrachloro-5,5-difluoropentane-1-carboxylic acid | 276 g | ClC(CC(=O)O)CC(C(F)(F)Cl)(Cl)Cl | C6H6Cl4F2O2
reactant | thionyl chloride | 300 ml | S(=O)(Cl)Cl | Cl2OS
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 2,4,4,5-Tetrachloro-5,5-difluoropentane-1-carboxylic acid chloride | ClC(CC(=O)Cl)CC(C(F)(F)Cl)(Cl)Cl | C6H5Cl5F2O
